US05277709
Triethylamine (10.1 g, 0.1 mol) is added to a solution of heptanal (11.4 g, 0.1 mol), acrylonitrile (5.31 g, 0.1 mol) and 3-benzyl-5-(2-hydroxyethyl)-4-methylthiazolium chloride (2.69 g, 0.01 mol) and the mixture stirred for 8 hours. The mixture is poured into 1% H2SO4 (150 ml) and extracted with CHCl3 (4×50 ml). This extract is washed with water, NaCO3 solution, and dried over NaSO4 to yield a brown oil. After distillation, (bp 150-175/0.08 mbar), the colourless oil obtained (9.5 g) is hydrolysed with 2.5M NaOH (100 ml) to yield 4.5 g of 4-oxodecanoic acid as a pale brown semi-solid.

reactant | Triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | heptanal | 0.1 mol, 11.4 g | C(CCCCCC)=O | C7H14O
reactant | acrylonitrile | 0.1 mol, 5.31 g | C(C=C)#N | C3H3N
reactant | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | 2.5M, 100 ml | [OH-].[Na+]
catalyst | 3-benzyl-5-(2-hydroxyethyl)-4-methylthiazolium chloride | 0.01 mol, 2.69 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
product | 4-oxodecanoic acid | 4.5 g | O=C(CCC(=O)O)CCCCCC | C10H18O3
